US04325953
1-Benzyl-4-(4-nitrophenoxy)-4-phenylpiperidine
A solution of 1-benzyl-4-hydroxy-4-phenylpiperidine (5.35 g, 20 mM) in dry DMSO (50 ml) was treated with a 50% sodium hydride dispersion (960 mg, 20 mM) followed by 4-fluoronitrobenzene (2.82 g, 20 mM). After 24 hours the reaction mixture was partitioned between water (200 ml) and ether (200 ml). The aqueous layer was extracted with ether (2×200 ml) and the combined organic layers washed with water (200 ml). The organic phase was dried and the solvent removed under reduced pressure. Recrystallisation of the residue from IPA gave the title compound (3.5 g) m.p. 135°-7° C.

reactant | 1-benzyl-4-hydroxy-4-phenylpiperidine | 20 mM, 5.35 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)O | C18H21NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 20 mM, 2.82 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 1-Benzyl-4-(4-nitrophenoxy)-4-phenylpiperidine | 3.5 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C24H24N2O3
